US05030644
B. 1,3 Dimethyl-4-phenyl-2[(2-oxopropyl)thio]-1H-imidazolium chloride
To a solution of 0 25 gram (0.001 mol) of the 1-methyl-5-phenyl-2[(2-oxopropyl)thio]imidazole, prepared as above described, in 10 mL of methylene chloride was added 0.164 g (0.001 mol) of methyl trifluoromethanesulfonate, and the solution was stirred overnight at room temperature. The solvent was evaporated and the residue was converted to the chloride ion form by dissolving in 20% methanol/water and passing through Dowex-1 (Cl-)ion exchange column. The column was eluted with 20 percent methanol in water and the eluate subjected to reduced pressure to evaporate the solvent and to obtain a residue. The residue was stirred overnight in ethyl acetate, filtered and recrystallized from isopropanol/hexane to obtain purified 1,3 dimethyl 4-phenyl-2-[(2-oxopropyl)thio]-1H-imidazolium chloride, m.p. 143°-146° C.

reactant | 1-methyl-5-phenyl-2[(2-oxopropyl)thio]imidazole | CN1C(=NC=C1C1=CC=CC=C1)SCC(C)=O | C13H14N2OS
reactant | methyl trifluoromethanesulfonate | 0.001 mol, 0.164 g | FC(S(=O)(=O)OC)(F)F | C2H3F3O3S
reactant | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,3 Dimethyl-4-phenyl-2[(2-oxopropyl)thio]-1H-imidazolium chloride | [Cl-].C[NH+]1C(N(C(=C1)C1=CC=CC=C1)C)SCC(C)=O | InChI=1S/C14H18N2OS.ClH/c1-11(17)10-18-14-15(2)9-13(16(14)3)12-7-5-4-6-8-12;/h4-9,14H,10H2,1-3H3;1H
